* Extracted by KLayout with GF180MCU LVS runset on : 01/08/2026 16:38

.SUBCKT NAND2 B A VSS Y VDD
M$1 VDD B Y VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 VDD A Y VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 \$4 B VSS VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$4 Y A \$4 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U PD=2.1U
.ENDS NAND2
